Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Latex
 
Attending: ___.
 
Chief Complaint:
melena
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ history of HCV cirrhosis without known complications 
presents
with melena.

The patient obtained HCV via blood transfusion and has
subsequently developed cirrhosis. He has not yet undergone
treatment for HCV. His cirrhosis has been uncomplicated without 
a
history of varices (last EGD ___ years ago), ascites or hepatic
encephalopathy. 

He states that he was in his usual state of health until three
days ago when he started having multiple, black, sticky bowel
movements a day. He denies any fevers/chills. No chest pain,
dyspnea, or palpitations. No n/v/d. No abdominal pan. No ethanol
or NSAID use. 

He notes no vision changes or dizziness.

 
Past Medical History:
-Hepatitis C (Genotype 1A) pending initiation of treatment;
acquired presumably via blood transfusion
-HCV cirrhosis (no known varices or portal hypertension)
-Hypertension
-Obstructive sleep apnea (not on CPAP)
-MVA in ___ c/b severe ___ trauma and bilateral femoral
fractures with right femoral fracture repair
-s/p IVF filter placement for PE ppx (during admission for ___)
-Persistent RLE wound (likely ___ prior trauma) followed by
plastic surgery
-H/o tobacco abuse (with ongoing smoking)
-Frequent ingrown toenails
 
Social History:
___
Family History:
Notable for DM, heart disease, lung disease, COPD, psoriasis,
and arthritis
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS:  T 98.3 BP 139/95 HR 77 R 20 SpO2 96 Ra 
GEN: NAD
HEENT: Sclerae anicteric
___: RRR, no MRG
RESP: CTAB, no wheezing or rhonchi
ABD: NTND no HSM. No caput
EXT: Warm, no edema
NEURO: No asterixis

DISCHARGE PHYSICAL EXAM:
Temp: 97.4 (Tm 98.3), BP: 135/89 (135-139/89-95), HR: 63 
(63-77), RR: 18 (___), O2 sat: 96%, O2 delivery: Ra 
GEN: NAD
HEENT: EOMI, Sclerae anicteric
___: RRR, no MRG
RESP: CTAB, no wheezing or rhonchi
ABD: Soft, NTND no HSM. 
EXT: Warm, no edema
SKIN: no rashes
NEURO: AAOx3, moving all extremities. No asterixis
 
Pertinent Results:
ADMISSION LABS
==============
___ 08:56PM BLOOD WBC-10.1* RBC-4.59* Hgb-14.4 Hct-42.7 
MCV-93 MCH-31.4 MCHC-33.7 RDW-13.3 RDWSD-45.1 Plt ___
___ 08:56PM BLOOD Neuts-51.9 ___ Monos-9.7 Eos-2.2 
Baso-0.7 Im ___ AbsNeut-5.26 AbsLymp-3.56 AbsMono-0.98* 
AbsEos-0.22 AbsBaso-0.07
___ 08:56PM BLOOD Glucose-108* UreaN-17 Creat-0.6 Na-139 
K-4.2 Cl-101 HCO3-25 AnGap-13
___ 08:56PM BLOOD ALT-94* AST-83* AlkPhos-172* TotBili-0.4
___ 08:56PM BLOOD Albumin-3.5 Calcium-9.3 Phos-4.3 Mg-1.9

DISCHARGE LABS
===============
___ 09:04AM BLOOD WBC-7.8 RBC-4.53* Hgb-14.3 Hct-42.7 
MCV-94 MCH-31.6 MCHC-33.5 RDW-13.3 RDWSD-45.7 Plt ___
___ 09:04AM BLOOD ___ PTT-33.7 ___
___ 09:04AM BLOOD Glucose-131* UreaN-15 Creat-0.8 Na-141 
K-4.6 Cl-102 HCO3-24 AnGap-15
___ 09:04AM BLOOD ALT-95* AST-83* AlkPhos-153* TotBili-0.7
___ 09:04AM BLOOD Calcium-8.8 Phos-3.8 Mg-1.9

IMAGING
==========
None

MICRO
=========
None

 
Brief Hospital Course:
PATIENT SUMMARY
================
Mr. ___ is a ___ y/o man with PMH notable for HCV cirrhosis 
(without known complications, but not yet initiated on HCV 
treatment), HTN, OSA not on CPAP, and prior MVC c/b bilateral 
femoral fractures ppx IVC filter placement and chronic RLE 
wounds. He presented with 3d of asymptomatic melena, now 
resolving, concerning for slow GIB. Patient remained 
hemodynamically stable without any drop in hemoglobin, and 
therefore was discharged on a PPI with outpatient hepatology 
follow up. 

ACUTE ISSUES: 
============== 
#Dark Stools
#Concern for slow GI bleed ___ PUD or Gastritis
Presents with melena in setting of cirrhosis without very small 
varices on EGD in ___. Patient reports intermittent GERD, which 
could be consistent with dyspepsia or gastritis. Of note, 
patient is experiencing extreme stress recently over the estate 
of his mother. Initially placed on Ceftriaxone and Octreotide, 
but discontinued as patient remained hemodynamically stable, and 
bleed appears to be resolved, with Hgb/Hct at baseline. He was 
discharged on a trial of Omeprazole 40mg Daily for 4 weeks. 

#Elevated transaminases: 
Patient with mildly elevated transaminases consistent with 
hepatocellular pattern though not significantly changed from 
baseline. No pain on examination.

#HCV cirrhosis: Childs A, HCV cirrhosis, no known 
decompensation. Follow up with Dr. ___.

CHRONIC ISSUES: 
================ 
#HTN: monitored in-house. remained normotensive off medications.

#OSA: was on continuous O2 monitoring as not on CPAP at home

#Chronic RLE ulcer: followed closely by plastics as outpatient

TRANSITIONAL ISSUES:
=====================
# Suspected Gastritis vs PUD:
[ ] 4 week trial of Omeprazole 40 mg daily, then taper
[ ] Consider H pylori testing if symptoms do not resolve. 

# HCV Cirrhosis
[ ] F/u with Dr. ___ repeat EGD.
[ ] Consider treatment of Hepatitis C.

#CODE: Full (presumed)
#CONTACT: ___ (Cousin) ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Omeprazole 40 mg PO DAILY 
RX *omeprazole 40 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
===================
Gastritis 

SECONDARY DIAGNOSES
=====================
HCV Cirrhosis 
HTN
OSA
Chronic RLE Ulcer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking part in your care here at ___!

Why was I admitted to the hospital?
- You were admitted for dark stools concerning for bleeding from 
your esophagus or stomach.

What was done for me in the hospital?
- You were monitored overnight.
- Your blood levels were measured and were normal, as well as 
stable. 
- You were started on a medication to help lower the acid in 
your stomach. 

What should I do when I leave the hospital?
- Please take all medicines as prescribed.
- Please follow up with Dr. ___ your liver disease and 
possible endoscopy. 

We wish you the best of luck in your health!

Sincerely,
Your ___ Treatment Team

 
Followup Instructions:
___